US05955476
A mixture of 4-(1,3-dioxoisoindolin-2-yl)-4-(ethoxycarbonyl)-4-fluorobutanoic acid (0.9 g, 2.8 mmol), carbonyl diimidazole (0.46 g, 2.8 mmol) and dimethylaminopyrimidine (0.68 g, 5.6 mmol) in tetrahydrofuran (30 mL) is heated at reflux for 18 hours. The solvent is removed in vacuo and the residue is stirred with methylene chloride (50 mL) for 10 minutes. The organic layer is washed with water and brine (40 mL each) and dried over sodium sulfate. The solvent is removed in vacuo to give 1,3-dioxo-2-(2,6-dioxo-3-fluoropiperidin-3-yl)isoindoline which is further purified by column chromatography.

reactant | 4-(1,3-dioxoisoindolin-2-yl)-4-(ethoxycarbonyl)-4-fluorobutanoic acid | 2.8 mmol, 0.9 g | O=C1N(C(C2=CC=CC=C12)=O)C(CCC(=O)O)(F)C(=O)OCC | C15H14FNO6
reactant | carbonyl diimidazole | 2.8 mmol, 0.46 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | dimethylaminopyrimidine | 5.6 mmol, 0.68 g | CN(C)C1=NC=CC=N1 | C6H9N3
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 1,3-dioxo-2-(2,6-dioxo-3-fluoropiperidin-3-yl)isoindoline | O=C1N(C(C2=CC=CC=C12)=O)C1(C(NC(CC1)=O)=O)F | C13H9FN2O4
